US04190656
In 10 ml. of acetone was dissolved 8.80 g. (40 m moles) of ethyl 5-fluoro-6-hydroxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate, and under ice-cooling, 5.10 g. (50 m moles) of acetic anhydride and 10 ml. of pyridine were added. The mixture was reacted at room temperature overnight. (A sample of the reaction mixture was taken, the solvent was distilled off under reduced pressure and the NMR spectrum of the residue was measured to ensure that there had been produced ethyl 6-acetoxy-5-fluoro-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate

reactant | acetone | CC(=O)C | C3H6O
reactant | ethyl 5-fluoro-6-hydroxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | FC1(C(NC(NC1O)=O)=O)C(=O)OCC | C7H9FN2O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl 6-acetoxy-5-fluoro-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | C(C)(=O)OC1C(C(NC(N1)=O)=O)(C(=O)OCC)F | C9H11FN2O6
